US06867198B2
3-(4-Methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(4-fluoro-1H-indol-3-yl)pyrrole-2,5-dione
Beginning with (4-fluoroindol-3-yl)acetamide and (4-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxo-acetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | (4-fluoroindol-3-yl)acetamide | FC1=C2C(=CNC2=CC=C1)CC(=O)N | C10H9FN2O
reactant | (4-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxo-acetic acid methyl ester | COC(C(=O)C1=CN2C(CCC3=CC=CC1=C23)C)=O | C15H15NO3
product | 3-(4-Methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(4-fluoro-1H-indol-3-yl)pyrrole-2,5-dione | CC1N2C3=C(C=CC=C3CC1)C(=C2)C=2C(NC(C2C2=CNC1=CC=CC(=C21)F)=O)=O | C24H18FN3O2
